US04638068
To a stirred solution containing 2.5 g of methyl 5-diethylaminopicolinate in 40 ml methanol is added 40 ml water and 1.04 g of a 50% solution of NaOH in water. The mixture is heated to reflux and allowed to cool to room temperature. This is repeated. The base is neutralized with concentrated HCl, and the solvents removed in vacuo. The residue is dried azeotropically with dioxane. The residue is then extracted into ethanol. Concentration of the ethanol gives 5-diethylaminopicolinic acid as a white crystalline solid, mp 145.5°-147.5° C.

reactant | methyl 5-diethylaminopicolinate | 2.5 g | C(C)N(C=1C=CC(=NC1)C(=O)OC)CC | C11H16N2O2
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 40 ml | O | H2O
product | 5-diethylaminopicolinic acid | C(C)N(C=1C=CC(=NC1)C(=O)O)CC | C10H14N2O2
